US07442694B2
E) 4-(5-Bromo-pyridin-3-yl)-1,4-diaza-bicyclo[3.2.1]octane dihydrochoride
A solution of NaOMe (0.48 mL, 2.2 mmol, 4.6 M in MeOH) was added to a solution of 1,4-diaza-bicyclo[3.2.1]octane dihydrochloride (0.2 g, 1.1 mmol) in MeOH (15 mL) at 50° C. The solvent was removed in vacuo and the resulting residue was triturated with toluene (5 mL). The toluene solution was added to a flask containing 3,5-dibromopyridine (0.26 g, 1.1 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.2 g, 0.33 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.1 g, 0.11 mmol), and NaOtBu (0.15 g, 1.5 mmol) under and atmosphere of nitrogen. The resulting mixture was heated at 80° C. for 20 h. The mixture was cooled to RT, diluted with CHCl3 (10 mL) and washed with water (10 mL). The organic layer was concentrated and purified by chromatography using a gradient elution (20/1 CHCl3/MeOH to 10/1 CHCl3/MeOH) to give 90 mg (30%) of the title compound as its free base. This material was dissolved in EtOH and treated with concentrated HCl (0.2 mL). The solvent was removed in vacuo and the EtOH was added and the solvent was once again removed in vacuo. This procedure was repeated until concentration resulted in a solid (3× total). The resulting solid was triturated with iPrOH and the resulting solid was collected to give 82 mg (22%) of the title compound: (data for free base) 1H NMR (CDCl3, 400 MHz) δ 8.13 (d, 1H, J=2.9 Hz), 8.06 (d, 1H, J=2.1 Hz), 7.21-7.19 (m, 1H), 4.20-4.17 (m, 1H), 3.15-3.08 (m, 3H), 3.04-2.80 (m, 4H), 2.66-2.62 (m, 1H), 1.87-1.72 (m, 2H); 13C NMR (CDCl3, 100 MHz) δ 147.0, 140.5, 136.4, 124.2, 121.1, 59.9, 57.0, 52.9, 50.7, 41.7, 29.9; APCI MS m/z 270.1, 268.1 (M+1).

reactant | NaOMe | 2.2 mmol, 4.6 M, 0.48 mL | C[O-].[Na+]
reactant | 1,4-diaza-bicyclo[3.2.1]octane dihydrochloride | 1.1 mmol, 0.2 g | Cl.Cl.N12CCNC(CC1)C2
reactant | 3,5-dibromopyridine | 1.1 mmol, 0.26 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.33 mmol, 0.2 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | NaOtBu | 1.5 mmol, 0.15 g | CC(C)(C)[O-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tris(dibenzylideneacetone)dipalladium | 0.11 mmol, 0.1 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-Bromo-pyridin-3-yl)-1,4-diaza-bicyclo[3.2.1]octane dihydrochoride | 90 mg, 30% | Cl.Cl.BrC=1C=C(C=NC1)N1CCN2CCC1C2 | InChI=1S/C11H14BrN3.2ClH/c12-9-5-11(7-13-6-9)15-4-3-14-2-1-10(15)8-14;;/h5-7,10H,1-4,8H2;2*1H
